US04992459
1-(2,6-Dichloro-4-hydroxybenzyl)-2-mercaptoimidazole
A mixture of 1-[2',6'-dichloro-4'-methoxybenzyl]2-mercaptoimidazole (1 g) in concentrated aqueous hydrobromic acid (50 ml) was heated at reflux under argon for 1.25 hr, and then cooled. The product was collected by filtration. Washing with concentrated aqueous hydrobromic acid and water and drying yielded 0.64 g (60%) of product as light yellow crystals: mp 235° (dec).

reactant | 1-[2',6'-dichloro-4'-methoxybenzyl]2-mercaptoimidazole | 1 g | ClC1=C(CN2C(=NC=C2)S)C(=CC(=C1)OC)Cl | C11H10Cl2N2OS
solvent | hydrobromic acid | 50 ml | Br | BrH
product | 1-(2,6-Dichloro-4-hydroxybenzyl)-2-mercaptoimidazole | 0.64 g, 60% | ClC1=C(CN2C(=NC=C2)S)C(=CC(=C1)O)Cl | C10H8Cl2N2OS
